US07960409B2
(S)-2-(1-{[2-amino-4-(4-fluorophenyl)quinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)-1,1,1-trifluorobutan-2-ol
A solution of 2-(1-{[2-chloro-4-(4-fluorophenyl)quinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)-1,1,1-trifluorobutan-2-ol (85 mg, 0.18 mmol) in NMP (1 mL) and ammonium hydroxide (15 M, 1 mL) was stirred at 175° C. in a microwave for 10 min. The reaction was quenched with saturated aqueous NaHCO3 and extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. Purification on silica gel (eluting with ethanol/dichloromethane, 1:9) gave the title compound. MS (+ESI): 445 (M+H)+.

reactant | 2-(1-{[2-chloro-4-(4-fluorophenyl)quinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)-1,1,1-trifluorobutan-2-ol | 0.18 mmol, 85 mg | ClC1=NC2=CC(=CC=C2C(=C1)C1=CC=C(C=C1)F)CN1N=NC(=C1)C(C(F)(F)F)(CC)O | C22H17ClF4N4O
reactant | NMP | 1 mL | CN1CCCC1=O | C5H9NO
solvent | ammonium hydroxide | 15 M, 1 mL | [OH-].[NH4+]
product | (S)-2-(1-{[2-amino-4-(4-fluorophenyl)quinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)-1,1,1-trifluorobutan-2-ol | NC1=NC2=CC(=CC=C2C(=C1)C1=CC=C(C=C1)F)CN1N=NC(=C1)[C@](C(F)(F)F)(CC)O | C22H19F4N5O
